US08486953B2
Preparation of 5-methyl-N-(2-(methylamino)ethyl)-4-(2-(tetrahydro-2H-pyran-4-yloxy)pyridin-3-ylamino)thieno[2,3-d]pyrimidine-6-carboxamide
HATU (0.157 g, 0.41 mmol) was added into a mixture of 5-methyl-4-(2-(tetrahydro-2H-pyran-4-yloxy)pyridin-3-ylamino)thieno[2,3-d]pyrimidine-6-carboxylic acid (0.145 g, 0.38 mmol) and Hünig's base (65 μL, 0.38 mmol) in DMF (2.0 mL) at 0° C. The reaction mixture was stirred at 0° C. for 0.5 hours. N-Boc-N-methylethylenediamine (335 μL, 1.88 mmol) was added, the coolant removed and the reaction mixture stirred at ambient temperature overnight. The solvent was concentrated in vacuo and the crude product dissolved in DCM. The organic layer was washed with water, concentrated in vacuo (10 mL) and trifluoroacetic acid added (3.0 mL). The mixture was stirred at ambient temperature overnight, concentrated in vacuo and purified by ion-exchange chromatography (SCX-2 eluting with hydrochloric acid/MeOH→ammonia/MeOH). Further purification by flash-column chromatography (100% DCM→10% ammonia/MeOH/DCM) yielded the title compound as pale yellow solid (0.043 g, 25%).

reactant | HATU | 0.41 mmol, 0.157 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 5-methyl-4-(2-(tetrahydro-2H-pyran-4-yloxy)pyridin-3-ylamino)thieno[2,3-d]pyrimidine-6-carboxylic acid | 0.38 mmol, 0.145 g | CC1=C(SC=2N=CN=C(C21)NC=2C(=NC=CC2)OC2CCOCC2)C(=O)O | C18H18N4O4S
reactant | Hünig's base | 0.38 mmol, 65 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | N-Boc-N-methylethylenediamine | 1.88 mmol, 335 μL | C(=O)(OC(C)(C)C)N(CCN)C | C8H18N2O2
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | 5-methyl-N-(2-(methylamino)ethyl)-4-(2-(tetrahydro-2H-pyran-4-yloxy)pyridin-3-ylamino)thieno[2,3-d]pyrimidine-6-carboxamide | 0.043 g, 25% | CC1=C(SC=2N=CN=C(C21)NC=2C(=NC=CC2)OC2CCOCC2)C(=O)NCCNC | C21H26N6O3S
